US06727264B1
N-(3-{1-[3-(3-CHLOROPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 1-chloro-3-(3-chloropropoxy)benzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 415.2 (M+H)+.

reactant | 1-chloro-3-(3-chloropropoxy)benzene | ClC1=CC(=CC=C1)OCCCCl | C9H10Cl2O
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[3-(3-CHLOROPHENOXY)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | ClC=1C=C(OCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC1 | C24H31ClN2O2
